US04906621
A mixture of 1.2 g of 4-(diethylphosphonomethyl)pyridine-N-oxide, 1.35 ml of triethylamine and 2.6 ml of trimethylsilylcyanide is heated at 90° for 1 hour. The volatiles are removed in vacuo and the residue is dissolved in ethyl acetate and washed with a small volume of aqueous sodium bicarbonate. After drying over magnesium sulfate the solvent is removed in vacuo to afford 2-cyano-4-(diethylphosphonomethyl)pyridine as an oil.

reactant | 4-(diethylphosphonomethyl)pyridine-N-oxide | 1.2 g | C(C)OP(=O)(OCC)CC1=CC=[N+](C=C1)[O-] | C10H16NO4P
reactant | trimethylsilylcyanide | 2.6 ml | C[Si](C)(C)C#N | C4H9NSi
solvent | triethylamine | 1.35 ml | C(C)N(CC)CC | C6H15N
product | 2-cyano-4-(diethylphosphonomethyl)pyridine | C(#N)C1=NC=CC(=C1)CP(=O)(OCC)OCC | C11H15N2O3P
